US05559113
N-Benzyl-N'-(3-(1H-imidazol-4-yl)propyl)urea
5 mmol of 3-(1H-imidazol-4-yl)propanamine dihydrochloride and 10 mmol of triethylamine are mixed in 10 ml of acetonitrile and, after addition of 5 mmol of benzyl isocyanate, the whole mixture is brought to boiling for 1 h at reflux. After evaporation under vacuum, the title compound is taken up in a small amount of water and recrystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | 3-(1H-imidazol-4-yl)propanamine dihydrochloride | 5 mmol | Cl.Cl.N1C=NC(=C1)CCCN
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 5 mmol | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-Benzyl-N'-(3-(1H-imidazol-4-yl)propyl)urea | C(C1=CC=CC=C1)NC(=O)NCCCC=1N=CNC1 | C14H18N4O
